US08455488B2
Synthesis of (S)-1,1-diethoxy-N-(quinolin-8-ylmethyl)propan-2-amine (Compound IX-3)
According to the procedure described in the synthesis method of Compound IX-2, (S)-1,1-diethoxypropan-2-amine (Compound XIX-1) 442 mg (3.00 mmol) was reacted with 8-Quinolinecarboaldehyde 393 mg (2.50 mmol) to obtain the title compound 649 mg (91%).

reactant | (S)-1,1-diethoxypropan-2-amine | 3.00 mmol, 442 mg | C(C)OC([C@H](C)N)OCC | C7H17NO2
reactant | 8-Quinolinecarboaldehyde | 2.50 mmol, 393 mg | N1=CC=CC2=CC=CC(=C12)C=O | C10H7NO
product | (S)-1,1-diethoxy-N-(quinolin-8-ylmethyl)propan-2-amine | 649 mg, 91% | C(C)OC([C@H](C)NCC=1C=CC=C2C=CC=NC12)OCC | C17H24N2O2
